US07579140B2
10.1 Preparation of 1,2-dimethyl-6-nitroquinolinium iodide
2-Methyl-6-nitroquinoline (0.5 g, 2.66 mmol) and iodomethane (1 ml, 16 mmol) were heated together in acetonitrile (10 ml) at reflux for 48 hrs. The mixture was cooled to room temperature and a grey material crystallised out of solution and was filtered off. This was shown to be starting material. The filtrate was diluted with ethyl acetate (200 ml) to give a yellow/green precipitate. The product was filtered off, washed with ethyl acetate and then dried under vacuum. The product was obtained as a yellow/green solid (147 mg, 16.8%).

reactant | 2-Methyl-6-nitroquinoline | 2.66 mmol, 0.5 g | CC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C10H8N2O2
reactant | iodomethane | 16 mmol, 1 ml | IC | CH3I
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1,2-dimethyl-6-nitroquinolinium iodide | 147 mg, 16.8% | [I-].C[N+]1=C(C=CC2=CC(=CC=C12)[N+](=O)[O-])C | InChI=1S/C11H11N2O2.HI/c1-8-3-4-9-7-10(13(14)15)5-6-11(9)12(8)2;/h3-7H,1-2H3;1H/q+1;/p-1
